datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C([O-])C(CCc1ccc([N+](=O)[O-])cc1)[NH2:10].O=C([O-])C[NH+](CC(=O)[O-])Cc1cc([N+](=O)[O-])ccc1[O:21][H:20]>>O=C([O-])C(CCc1ccc([N+](=O)[O-])cc1)[NH2+:10][H:20].O=C([O-])C[NH+](CC(=O)[O-])Cc1cc([N+](=O)[O-])ccc1[O-:21] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[NH3+]CC(=O)C[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH3+]CC(=O)C[NH2+:10][H:20] 10=20;20,21=21",
"Cc1ccnc(NS(=O)(=O)c2ccccc2)[n+:21]1[H:20].Nc1nc[n:10]c2c1cnn2-c1ccccc1>>Cc1ccnc(NS(=O)(=O)c2ccccc2)[n:21]1.Nc1nc[n+:10]([H:20])c2c1cnn2-c1ccccc1 10=20;20,21=21",
"Cc1c[n+:21]([H:20])c2c(cc(C)c3c(C)ccnc32)c1C.Cc1cccc([Se]CC(=O)[O-:10])c1>>Cc1c[n:21]c2c(cc(C)c3c(C)ccnc32)c1C.Cc1cccc([Se]CC(=O)[O:10][H:20])c1 10=20;20,21=21",
"C[N:10](C)CCC(c1ccccc1)c1ccccn1.N#CC(C#N)=C(C#N)[N:21](c1cccc([N+](=O)[O-])c1)[H:20]>>C[N+:10](C)(CCC(c1ccccc1)c1ccccn1)[H:20].N#CC(C#N)=C(C#N)[N-:21]c1cccc([N+](=O)[O-])c1 10=20;20,21=21",
"CC(C)(C)c1cc(O)[nH][n:10]1.O=S(=O)([O-])CC(O)C[N+:21]1([H:20])CCOCC1>>CC(C)(C)c1cc(O)[nH][n+:10]1[H:20].O=S(=O)([O-])CC(O)C[N:21]1CCOCC1 10=20;20,21=21",
"CC[N:10](C)CCCNC(=O)/C=N/[O-].CCc1ccccc1[NH2+:21][H:20]>>CC[N+:10](C)(CCCNC(=O)/C=N/[O-])[H:20].CCc1ccccc1[NH2:21] 10=20;20,21=21",
"C1CCC2C(C1)CCC[NH:10]2.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C1CCC2C(C1)CCC[NH+:10]2[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC[NH+](CC)Cc1cccc(F)c1[O:21][H:20].O=C([O-])c1cccc([N+](=O)[O-])c1[O-:10]>>CC[NH+](CC)Cc1cccc(F)c1[O-:21].O=C([O-])c1cccc([N+](=O)[O-])c1[O:10][H:20] 10=20;20,21=21",
"CC1(C)CCC(C(=O)[O-:10])=[N+]1[O-].O=C1c2cccc([N+](=O)[O-])c2C(=O)[N:21]1[H:20]>>CC1(C)CCC(C(=O)[O:10][H:20])=[N+]1[O-].O=C1c2cccc([N+](=O)[O-])c2C(=O)[N-:21]1 10=20;20,21=21",
"CCC[N+:21](CCC)(c1ccc([N+](=O)[O-])cc1)[H:20].CNc1nc[n:10]c2[nH]ncc12>>CCC[N:21](CCC)c1ccc([N+](=O)[O-])cc1.CNc1nc[n+:10]([H:20])c2[nH]ncc12 10=20;20,21=21",
"CC(C)C(C(N)=O)[NH-:10].O=[N+]([O-])c1ccc(-c2ccc([O:21][H:20])cc2)cc1>>CC(C)C(C(N)=O)[NH:10][H:20].O=[N+]([O-])c1ccc(-c2ccc([O-:21])cc2)cc1 10=20;20,21=21",
"Oc1ccccc1[O:21][H:20].c1cc2ccc([O-:10])cc2nn1>>Oc1ccccc1[O-:21].c1cc2ccc([O:10][H:20])cc2nn1 10=20;20,21=21",
"CC(C)[NH2+]CC[NH:10]C(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)[NH2+]CC[NH+:10](C(C)C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+:21](CCO)(CCCl)[H:20].Cc1cc(C)[n:10]c(N)n1>>C[N:21](CCO)CCCl.Cc1cc(C)[n+:10]([H:20])c(N)n1 10=20;20,21=21",
"CC(C)[NH:10]CC(=O)[O-].C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)[NH+:10](CC(=O)[O-])[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Cc1n[nH]c(C(=O)[O-:10])c1[N+](=O)[O-].OC[C@@H]1O[C@H](n2cnc3c([S-])[n+:21]([H:20])cnc32)[C@@H](O)[C@H]1O>>Cc1n[nH]c(C(=O)[O:10][H:20])c1[N+](=O)[O-].OC[C@@H]1O[C@H](n2cnc3c([S-])[n:21]cnc32)[C@@H](O)[C@H]1O 10=20;20,21=21",
"CC(C)c1csc(C(=O)[O-:10])c1.O=C(c1ccccc1CO)[O:21][H:20]>>CC(C)c1csc(C(=O)[O:10][H:20])c1.O=C(c1ccccc1CO)[O-:21] 10=20;20,21=21",
"CN1C(=O)c2c([n+:21]([H:20])cn2CC(=O)[O-])N(C)C1=O.O=C(C1Cc2ccccc2O1)[O-:10]>>CN1C(=O)c2c([n:21]cn2CC(=O)[O-])N(C)C1=O.O=C(C1Cc2ccccc2O1)[O:10][H:20] 10=20;20,21=21",
"CC(C[NH2:10])C(N)=NO.O=C1CC(c2ccccc2)NC(=O)[N:21]1[H:20]>>CC(C[NH2+:10][H:20])C(N)=NO.O=C1CC(c2ccccc2)NC(=O)[N-:21]1 10=20;20,21=21",
"CCCC[NH:10]CCC(=O)[O-].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCC[NH+:10](CCC(=O)[O-])[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C[N:10](C)CCOC(c1ccccc1)c1ccc(Br)cc1.N#CC(C#N)=[N+:21](Nc1ccccc1)[H:20]>>C[N+:10](C)(CCOC(c1ccccc1)c1ccc(Br)cc1)[H:20].N#CC(C#N)=[N:21]Nc1ccccc1 10=20;20,21=21",
"CC(C)(C)C[N+:21](C)(C)[H:20].c1ccc2sc(/N=N/c3ccc([O-:10])c4ncccc34)nc2c1>>CC(C)(C)C[N:21](C)C.c1ccc2sc(/N=N/c3ccc([O:10][H:20])c4ncccc34)nc2c1 10=20;20,21=21",
"CC(C)(C(=O)[O-])[NH:10]C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(C)(C(=O)[O-])[NH+:10](C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)N(CC[NH2+]CC(=O)[O-:10])CC(=O)O)cc1.Nc1cc[nH+]c([S-])[n+:21]1[H:20]>>Cc1ccc(S(=O)(=O)N(CC[NH2+]CC(=O)[O:10][H:20])CC(=O)O)cc1.Nc1cc[nH+]c([S-])[n:21]1 10=20;20,21=21",
"O=C([O-])c1ccc([N+](=O)[O-])cc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])c1ccc([N+](=O)[O-])cc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[C@H](C(=O)[O-])[C@H](CO)Cc1c[n+:21]([H:20])cn1C.Cc1nsc([S-:10])n1>>CC[C@H](C(=O)[O-])[C@H](CO)Cc1c[n:21]cn1C.Cc1nsc([S:10][H:20])n1 10=20;20,21=21",
"C1=CC/C(=[O+:21]/[H:20])C=C1.CCSC(c1ccc(C)cc1)=[O:10]>>C1=CCC(=[O:21])C=C1.CCSC(c1ccc(C)cc1)=[O+:10][H:20] 10=20;20,21=21",
"CC(C)[NH2+]CCCCCC[NH:10]C(C)C.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(C)[NH2+]CCCCCC[NH+:10](C(C)C)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CSc1nc2ncncc2[n:21]1[H:20].c1cc([NH2:10])c2cn[nH]c2c1>>CSc1nc2ncncc2[n-:21]1.c1cc([NH2+:10][H:20])c2cn[nH]c2c1 10=20;20,21=21",
